US06350749B1
To a mixture of acetone (160 ml), sodium hydroxide (2.6 g) and water (160 ml) was added dropwise at 0° C. a solution of crude 2-chloro-5-methylbenzaldehyde (18.3 g) in acetone (30 ml), and the mixture was stirred at the same temperature for 1 hour. Under reduced pressure, acetone was evaporated, and the residue was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and concentrated under reduced pressure to give 4-(2-chloro-5-methylphenyl)-3-buten-2-one (18.9 g) as oil.

reactant | sodium hydroxide | 2.6 g | [OH-].[Na+]
reactant | water | 160 ml | O | H2O
reactant | 2-chloro-5-methylbenzaldehyde | 18.3 g | ClC1=C(C=O)C=C(C=C1)C | C8H7ClO
reactant | acetone | 30 ml | CC(=O)C | C3H6O
reactant | acetone | 160 ml | CC(=O)C | C3H6O
product | 4-(2-chloro-5-methylphenyl)-3-buten-2-one | 18.9 g | ClC1=C(C=C(C=C1)C)C=CC(C)=O | C11H11ClO
